US08420682B2
33 mg of 4-{3-[(2,6-diisopropylphenylcarbamoyl)-methyl]-2,4-dioxo-1,3-diazaspiro[4.5]dec-1-yl}benzoic acid ethyl ester are dissolved in 10 ml of methanol, 1 drop of concentrated sulfuric acid is added and the solution is refluxed for 18 hours. The mixture is stirred at reflux for 72 hours. The solvent is evaporated off. The residue is dissolved in DCM, heptane is added until slight cloudiness appears, and the solution is stirred at room temperature under nitrogen for 16 hours. The product 4-{3-[(2,6-diisopropylphenylcarbamoyl)methyl]-2,4-dioxo-1,3-diaza-spiro[4.5]dec-1-yl}benzoic acid methyl ester is obtained in the form of fine white needles.

reactant | 4-{3-[(2,6-diisopropylphenylcarbamoyl)-methyl]-2,4-dioxo-1,3-diazaspiro[4.5]dec-1-yl}benzoic acid ethyl ester | 33 mg | C(C)OC(C1=CC=C(C=C1)N1C(N(C(C12CCCCC2)=O)CC(NC2=C(C=CC=C2C(C)C)C(C)C)=O)=O)=O | C31H39N3O5
solvent | methanol | 10 ml | CO | CH4O
catalyst | sulfuric acid | 1 drop | S(O)(O)(=O)=O | H2O4S
product | 4-{3-[(2,6-diisopropylphenylcarbamoyl)methyl]-2,4-dioxo-1,3-diaza-spiro[4.5]dec-1-yl}benzoic acid methyl ester | COC(C1=CC=C(C=C1)N1C(N(C(C12CCCCC2)=O)CC(NC2=C(C=CC=C2C(C)C)C(C)C)=O)=O)=O | C30H37N3O5
